US09388189B2
(S)-2-(1-((5-((5-Fluoro-2-hydroxyphenyl)thio)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-((5-Fluoro-2-methoxyphenyl)thio)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (63 mg, 0.09 mmol) was treated with boron tribromide (1M in dichloromethane, 938 μl, 0.94 mmol) in dichloromethane (1.30 ml) and then with a solution of ammonia (7N in methanol, 1.30 ml, 9.10 mmol) according to the method described in Example 41. The residue was purified using SP1® Purification System (0% to 10% dichloromethane-2-propanol) to obtain 33 mg (64% yield) of the title compound.

reactant | (S)-2-(1-((5-((5-Fluoro-2-methoxyphenyl)thio)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.09 mmol, 63 mg | FC=1C=CC(=C(C1)SC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)OC | C34H38FN7O3SSi
reactant | boron tribromide | 0.94 mmol, 1M, 938 μl | B(Br)(Br)Br | BBr3
reactant | ammonia | 9.10 mmol, 7N, 1.30 ml | N | H3N
solvent | dichloromethane | 1.30 ml | ClCCl | CH2Cl2
product | (S)-2-(1-((5-((5-Fluoro-2-hydroxyphenyl)thio)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 33 mg, 64% yield | FC=1C=CC(=C(C1)SC1=CNC=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)O | C27H22FN7O2S
